US06403573B1
a) 4-Chloro-butanoic Acid 3-fluorophenyl Ester
4-Chlorobutyrylchloride (35.3 g) was added to 3-fluorophenol (25 g). This mixture was stirred during 48 h at room temperature. After the reaction was completed the product was purified by vacuo-destillation. Yield: 35,3 g (b.p. 106° C. 3 mmHg) of 4-chloro-butanoic acid 3-fluorophenyl ester as a white oil.

reactant | 4-Chlorobutyrylchloride | 35.3 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 3-fluorophenol | 25 g | FC=1C=C(C=CC1)O | C6H5FO
product | 4-Chloro-butanoic Acid 3-fluorophenyl Ester | FC=1C=C(C=CC1)OC(CCCCl)=O | C10H10ClFO2
